US08106043B2
1-(6-Nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-(pyrrolidin-1-yl)ethanone:
To a stirred solution of 2-chloro-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone (685 mg, 2.51 mmol) in dioxane (10 mL), cooled to 0° C. was added HCl, 1 M in diethyl ether (2.51 mL, 2.51 mmol) followed by pyrrolidine (0.21 mL, 2.51 mmol) dropwise. The resulting mixture was stirred at 0° C. for 5 minutes and then warmed to room temperature, stirring overnight. At this time, additional pyrrolidine (0.21 mL, 2.51 mmol) was added, followed by water (1 mL) to aid dissolution. After 1 hour of stirring at room temperature, the mixture was then diluted with ethyl acetate and washed with saturated sodium carbonate, water (3×), and brine. The organic phase was dried, filtered, and concentrated, giving a yellow/orange oil (756 mg, 98%). 1H NMR (DMSO-d6) δ 8.52 (brs, 1H), 7.93 (dd, J=9.0, 1.6 Hz, 1H), 7.49 (d, J=9.0 Hz, 1H), 4.01-3.91 (m, 4H), 3.56 (s, 2H), 3.45-3.35 (m, 2H), 2.55-2.50 (m, 2H), 2.22-2.14 (m, 4H); ESI-MS (m/z, %): 308 (MH+, 100).

reactant | 2-chloro-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | 2.51 mmol, 685 mg | ClCC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C10H9ClN2O3S
reactant | HCl | Cl | ClH
reactant | diethyl ether | 2.51 mmol, 2.51 mL | C(C)OCC | C4H10O
reactant | pyrrolidine | 2.51 mmol, 0.21 mL | N1CCCC1 | C4H9N
reactant | pyrrolidine | 2.51 mmol, 0.21 mL | N1CCCC1 | C4H9N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
product | 1-(6-Nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)-2-(pyrrolidin-1-yl)ethanone | 756 mg, 98% | [N+](=O)([O-])C1=CC2=C(SCCN2C(CN2CCCC2)=O)C=C1 | C14H17N3O3S
